US08530701B2
In a 50 L glass reactor, dry methanol 21.43 L, containing 0.01% water, D-alaninamide hydrochloride (589.9 g; 4.72 mol), triethylamine (477.8 g; 4.72 mol) 4-(2-fluorobenzyloxy)benzaldehyde (1000 g, 4.33 mol) prepared as described in Example 23.1a) with GC purity 93.20 (area %, see Example 24A) and a content of 3-(2-fluorobenzyl)-4-(2-fluorobenzyloxy)benzaldehyde of 0.43% by weight determined by GC (see Example 24B), and 3A° molecular sieves (430.62 g) are loaded under stirring and under nitrogen at room temperature. The mixture is heated up to 40° C. and stirred at this temperature for 4 hours. The reaction temperature is then lowered to 10° C. and sodium borohydride (82.58 g, 2.16 mol) is added portion wise in 30 min. The reaction mixture is warmed up to room temperature while stirring for additional 6 hours at 20±2° C. The reaction mixture is filtered and evaporated to dryness under vacuum. The residue is taken up with water (16 L) and toluene (14 L) at 60° C., the organic phase is separated and added with water (16 L). The two phases mixture is warmed up to 60° C.±2 under stirring. The organic phase is separated and added with water (16 L). The two phases mixture is warmed up to 60° C.±2 under stirring. The organic phase is dried by azeotropic distillation at about 60° C. under vacuum. The aqueous phases are combined together (solution A, about 50 L). The toluenic solution is gradually cooled to 10° C. The mixture is kept under stirring and under nitrogen at 10° C.±2 for 4 hours. The mixture is filtered and the cake is washed with cold (10° C.) toluene (2 L), dried under vacuum at room temperature to provide 393.3 g (1.31 mol; 30.3% yield) of (R)-2-[4-(2-fluorobenzyloxy)benzylamino]propanamide (I′b) as white solid.

reactant | D-alaninamide hydrochloride | 4.72 mol, 589.9 g | Cl.N[C@H](C)C(=O)N
reactant | triethylamine | 4.72 mol, 477.8 g | C(C)N(CC)CC | C6H15N
reactant | 4-(2-fluorobenzyloxy)benzaldehyde | 4.33 mol, 1000 g | FC1=C(COC2=CC=C(C=O)C=C2)C=CC=C1 | C14H11FO2
reactant | 3-(2-fluorobenzyl)-4-(2-fluorobenzyloxy)benzaldehyde | FC1=C(CC=2C=C(C=O)C=CC2OCC2=C(C=CC=C2)F)C=CC=C1 | C21H16F2O2
reactant | sodium borohydride | 2.16 mol, 82.58 g | [BH4-].[Na+]
solvent | water | O | H2O
solvent | methanol | 21.43 L | CO | CH4O
product | (R)-2-[4-(2-fluorobenzyloxy)benzylamino]propanamide | 1.31 mol, 393.3 g, 30.3% yield | FC1=C(COC2=CC=C(CN[C@@H](C(=O)N)C)C=C2)C=CC=C1 | C17H19FN2O2
